US08580824B2
To a solution of 4-(2-tert-butoxycarbonyl-ethyl)-3-ethyl-5-methyl-benzoic acid (36.0 g, 123 mmol) in isopropanol (400 mL), HOBT (18.3 g, 135 mmol) followed by EDC HCl (27.1 g, 142 mmol) is added. The mixture is stirred at rt for 1 h before aq. ammonia (69 mL of 25% solution) is added. Stirring is continued for 1 h before the mixture is diluted with DCM (500 mL) and washed with half sat. aq. NaHCO3 solution (3×400 mL), followed by water (400 mL). The org. extract is dried over MgSO4, filtered and concentrated. The crude product is trituated with TBME 8250 mL). The solid material is collected, washed with additional TBME (50 mL) and dried under high vacuum to give 3-(4-carbamoyl-2-ethyl-6-methyl-phenyl)-propionic acid tert-butyl ester (31.91 g) as a white solid.

reactant | 4-(2-tert-butoxycarbonyl-ethyl)-3-ethyl-5-methyl-benzoic acid | 123 mmol, 36.0 g | C(C)(C)(C)OC(=O)CCC1=C(C=C(C(=O)O)C=C1C)CC | C17H24O4
reactant | HOBT | 135 mmol, 18.3 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC HCl | 142 mmol, 27.1 g | CCN=C=NCCCN(C)C.Cl
reactant | ammonia | 69 mL | N | H3N
solvent | isopropanol | 400 mL | C(C)(C)O | C3H8O
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-carbamoyl-2-ethyl-6-methyl-phenyl)-propionic acid tert-butyl ester | 31.91 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1C)C(N)=O)CC)=O | C17H25NO3
